US08247403B2
(5) tert-butyl 6-phenyl-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate
A mixture of tert-butyl 6-bromo-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate (150 mg, 0.457 mmol), a solution of phenylboronic acid (83.4 mg, 0.684 mmol) in ethanol (0.525 ml), 2N aqueous sodium carbonate solution (2 ml), and tetrakis(triphenylphosphine)palladium(0) (63.2 mg, 0.0547 mmol) in toluene (4 ml) was stirred under a nitrogen atmosphere at 95° C. for 12 hr. The reaction mixture was poured into water, and the mixture was extracted with ethyl acetate. The extract was washed with water, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (hexane:ethyl acetate=2:1) to give the desired product (90.0 mg, 58.0%) as an oil.

reactant | tert-butyl 6-bromo-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate | 0.457 mmol, 150 mg | BrC1=CC=CC2=C1CN(CCO2)C(=O)OC(C)(C)C | C14H18BrNO3
reactant | phenylboronic acid | 0.684 mmol, 83.4 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | water | O | H2O
solvent | ethanol | 0.525 ml | C(C)O | C2H6O
solvent | sodium carbonate | 2N, 2 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | toluene | 4 ml | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.0547 mmol, 63.2 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | tert-butyl 6-phenyl-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate | 90.0 mg, 58.0% | C1(=CC=CC=C1)C1=CC=CC2=C1CN(CCO2)C(=O)OC(C)(C)C | C20H23NO3
